US05753664
2-[4-(4-Methoxycarbonylbenzoyl)benzyloxy]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one
To a solution of 3-methylpyrido[1,2-a]pyrimidine-2,4-dione (2.20 g, 12.5 mmol) and 4-(4-methoxycarbonylbenzoyl)benzyl bromide (7.04 g, 12.7 mmol) in DMF (40.0 ml)-DMSO (20.0 ml) was added potassium carbonate (3.92 g, 28.4 mmol) and the mixture was stirred at room temperature overnight. This reaction mixture was diluted with water and the resulting crystals were collected by filtration, dissolved in ethyl acetate, and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was re-crystallized from ethyl acetate to provide colorless needles.

reactant | 3-methylpyrido[1,2-a]pyrimidine-2,4-dione | 12.5 mmol, 2.20 g | CC1C(N=C2N(C1=O)C=CC=C2)=O | C9H8N2O2
reactant | 4-(4-methoxycarbonylbenzoyl)benzyl bromide | 12.7 mmol, 7.04 g | COC(=O)C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C16H13BrO3
reactant | DMSO | 20.0 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 28.4 mmol, 3.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-(4-Methoxycarbonylbenzoyl)benzyloxy]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | COC(=O)C1=CC=C(C(=O)C2=CC=C(COC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C25H20N2O5
